US08012966B2
A stirred solution of 4,4,4-trifluoro-3-oxo-butyric acid ethyl ester (3.822 g, 20.75 mmol) in glacial acetic acid was added dropwise with an aqueous solution of sodium nitrite (4 ml, 20.75 mmol) while maintaining the temperature at 0˜5° C. Upon completion of the addition, 1 ml of water was added. The reaction mixture was stirred in an ice-water bath for 30 minutes and at room temperature for another 3 hours. The solution of 4,4,4-trifluoro-2-hydroxyimino-3-oxo-butyric acid ethyl ester was obtained which was used as such.

reactant | 4,4,4-trifluoro-3-oxo-butyric acid ethyl ester | 20.75 mmol, 3.822 g | C(C)OC(CC(C(F)(F)F)=O)=O | C6H7F3O3
reactant | sodium nitrite | 20.75 mmol, 4 ml | N(=O)[O-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,4,4-trifluoro-2-hydroxyimino-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C(F)(F)F)=O)=NO)=O | C6H6F3NO4
